US08604032B2
A mixture of ethyl 1-amino-1H-imidazole-2-carboxylate (C-4) (800 mg, 5.16 mmol, 1.0 eq) and formamidine acetate (2.68 g, 25.78 mmol, 5.0 eq) in EtOH (100 mL) is stirred at reflux overnight. The resulting mixture is cooled to RT. The solid is collected by filtration, rinsed with EtOH (3×2 mL) and petroleum ether (2 mL×3), and then dried in vacuo to afford the product, imidazo[1,2-f][1,2,4]triazin-4-ol (C-5).

reactant | ethyl 1-amino-1H-imidazole-2-carboxylate | 5.16 mmol, 800 mg, 1.0 eq | NN1C(=NC=C1)C(=O)OCC | C6H9N3O2
reactant | formamidine acetate | 25.78 mmol, 2.68 g, 5.0 eq | C(C)(=O)O.C(=N)N
solvent | EtOH | 100 mL | CCO | C2H6O
product | imidazo[1,2-f][1,2,4]triazin-4-ol | C1=CN2C(=N1)C(=O)N=CN2 | C5H4N4O
